US06005103
3-[[(Benzylthio)pyridin-3-yl]methyl]-4-hydroxy-6-phenyl-2H-pyran-2-one (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.50 g, 7.98 mmol), ethanol (10 mL), pyridine-3-carboxaldehyde (0.86 g, 7.98 mmol), benzylmercaptan (1.98g, 15.96 mmol), piperidine (0.5 mL), acetic acid (0.5 mL). m.p. 103-106° C.; 1H NMR (400 MHz, DMSO-d6) δ3.75 (q, 2H), 5.31 (s, 1H), 6.33 (s, 1H), 7.2 (m, 1H), 7.28 (m, 5H), 7.36 (m, 3H), 7.72 (m, 2H), 7.89 (d, 1H), 8.38 (dd, 1H), 8.57 (s, 1H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 7.98 mmol, 1.50 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | pyridine-3-carboxaldehyde | 7.98 mmol, 0.86 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | benzylmercaptan | 15.96 mmol, 1.98g | C(C1=CC=CC=C1)S | C7H8S
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[[(Benzylthio)pyridin-3-yl]methyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | C(C1=CC=CC=C1)SC1=NC=CC=C1CC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C24H19NO3S
